US07745438B2
5-(R)-[2-(S)-Amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve 5-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(R)-dibenzylaminopropyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester (1.38 g, 1.70 mmol) in tert-butanol (˜50 mL). Add 20% palladium hydroxide on carbon (4 g) and hydrogenate at 50 psi hydrogen gas at 40° C. for 18 hours. Filter and concentrate to give the desired compound (802 mg).

reactant | 5-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(R)-dibenzylaminopropyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester | 1.70 mmol, 1.38 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@@H](CC1=CC(=CC=C1)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(C)(C)C)C | C52H64N2O6
reactant | hydrogen | [H][H] | H2
solvent | tert-butanol | ˜50 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium hydroxide on carbon | 4 g | [OH-].[OH-].[Pd+2]
product | 5-(R)-[2-(S)-Amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester | 802 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)O)N)O)OCC(C)(C)C)C | C24H40N2O6
